US07498337B2
1-(2-chloropyrimidin-5-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde
By a reaction under similar conditions as in Reference Example 55 and using 5-phenyl-1H-pyrrole-3-carbaldehyde (342 mg), sodium hydride (60% in oil, 120 mg), 15-crown-5 (0.60 mL) and 2-chloro-5-pyrimidinesulfonyl chloride (554 mg), the title compound was obtained as a yellow solid (yield 390 mg, 56%).

reactant | 5-phenyl-1H-pyrrole-3-carbaldehyde | 342 mg | C1(=CC=CC=C1)C1=CC(=CN1)C=O | C11H9NO
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | 15-crown-5 | 0.60 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | 2-chloro-5-pyrimidinesulfonyl chloride | 554 mg | ClC1=NC=C(C=N1)S(=O)(=O)Cl | C4H2Cl2N2O2S
product | 1-(2-chloropyrimidin-5-ylsulfonyl)-5-phenyl-1H-pyrrole-3-carbaldehyde | ClC1=NC=C(C=N1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C=O | C15H10ClN3O3S
